US06525067B1
1-Methyl-3-{1-[2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl]-propyl}urea
A mixture of 1-[2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl]-propylamine (55 mg), methyl isocyanate (0.3 ml), in dichloroethane (1 ml) was heated at 60° C. for 1 hrs. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried and concentrated to give the crude material as a colorless oil. The oil was purified by preparative thin layer chromatography using 3% methanol in chloroform as solvent to give 42 mg of the title compound as a white glass foam.

reactant | 1-[2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl]-propylamine | 55 mg | CC1=NC2=C(C=CC=C2C(=C1)C(CC)N)C1=C(C=C(C=C1C)C)C | C22H26N2
reactant | methyl isocyanate | 0.3 ml | CN=C=O | C2H3NO
solvent | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
product | 1-Methyl-3-{1-[2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl]-propyl}urea | 42 mg | CNC(=O)NC(CC)C1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C | C24H29N3O
